US09238640B2
Preparation of 2-(3,5-Dimethyl-4-(2-(pyrrolidin-1-yl)ethoxy)phenyl)-5,7-diisopropoxypyrido[2,3-d]pyrimidin-4(3H)-one
To a solution of 2-amino-4,6-diisopropoxy-nicotinamide (450 mg, 1.78 mmol) and 3,5-dimethyl-4-(2-pyrrolidin-1-yl-ethoxy)-benzaldehyde (440 mg, 1.78 mmol) in N,N-dimethyl acetamide (10 mL) were added NaHSO3 (790 mg, 4.44 mmol) and p-TSA (845 mg, 4.44 mmol). The reaction mixture was heated at 120° C. for 16 hours, then cooled to room temperature. The solvent was removed under reduced pressure. Then, water (100 mL) was added and stirred for 30 min at room temperature. The separated solids were filtered and dried to give crude product, which was purified by the Simpliflash system, using 2% methanol in dichloromethane, to give a yellow oil, which dissolved in ether. 2N HCl in ether was added, and the separated solids were filtered and dried to give the hydrochloride salt of the title compound as a yellow solid. Yield: 59 mg (6%). 1H NMR (400 MHz, DMSO-d6): δ 10.7 (br s, 1H), 7.88 (s, 2H), 6.31 (s, 1H), 5.41 (m, 1H), 4.80 (m, 1H), 4.14 (t, J=4.8 Hz, 2H), 3.61 (m, 2H), 3.16 (m, 4H), 2.34 (s, 6H), 2.03 (m, 2H), 1.91 (m, 2H), 1.32 (s, 6H), 1.30 (s, 6H). MS (ES) m/z: 481.18 (M+1).

reactant | 2-amino-4,6-diisopropoxy-nicotinamide | 1.78 mmol, 450 mg | NC1=C(C(=O)N)C(=CC(=N1)OC(C)C)OC(C)C | C12H19N3O3
reactant | 3,5-dimethyl-4-(2-pyrrolidin-1-yl-ethoxy)-benzaldehyde | 1.78 mmol, 440 mg | CC=1C=C(C=O)C=C(C1OCCN1CCCC1)C | C15H21NO2
reactant | NaHSO3 | 4.44 mmol, 790 mg | OS(=O)[O-].[Na+]
reactant | p-TSA | 4.44 mmol, 845 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | HCl | 2N | Cl | ClH
solvent | N,N-dimethyl acetamide | 10 mL | CN(C(C)=O)C | C4H9NO
solvent | ether | CCOCC | C4H10O
product | 2-(3,5-Dimethyl-4-(2-(pyrrolidin-1-yl)ethoxy)phenyl)-5,7-diisopropoxypyrido[2,3-d]pyrimidin-4(3H)-one | CC=1C=C(C=C(C1OCCN1CCCC1)C)C=1NC(C2=C(N1)N=C(C=C2OC(C)C)OC(C)C)=O | C27H36N4O4
